*precharge circuit

.include osu018.lib
m1 bl pre vdd  vdd  CMOSP W=0.36u L=0.18u M=1
m3 br pre vdd vdd CMOSP W=0.36u L=0.18u M=1
m2 br pre bl gnd CMOSN W=0.36u L=0.18u M=1
C1 bl gnd 20fF
C2 br gnd 20fF
v1  vdd gnd 1.8v


v2  pre gnd pulse(0 1.8V 50ps 10ps 10ps 40ns 80ns)
.tran 10e-09 100e-09 0e-09

* Control Statements 
.control
run

plot v(pre)+4 v(bl)+2 v(br)

.endc
.end
